US07696215B2
Using an analogous procedure to that described paragraph (B) in the portion of Example 1 which is concerned with the preparation of starting material N-ethyl piperazine was reacted with methyl 3-(8-cyano-6-iodo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate to give methyl 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate; Mass Spectrum: M+H+ 432.

reactant | N-ethyl piperazine | C(C)N1CCNCC1 | C6H14N2
reactant | methyl 3-(8-cyano-6-iodo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)OC)C=CC1C)=O)I | C18H12IN3O3
product | methyl 3-[8-cyano-6-(4-ethylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)OC)C=CC1C)=O)N1CCN(CC1)CC | C24H25N5O3
